US04933355
5-(2-Diphenylaminothiazol-4-ylmethylene)rhodanine-3-acetic acid
The reaction described in Example 1 was repeated, but using 3 g of 2-diphenylaminothiazole-4-carbaldehyde, 1.7 g of rhodanine-3-acetic acid, 1.3 g of ammonium chloride, 1.3 ml of 28% v/v aqueous ammonia and 60 ml of ethanol, giving the title compound as orange needles.

reactant | 2-diphenylaminothiazole-4-carbaldehyde | 3 g | C1(=CC=CC=C1)N(C=1SC=C(N1)C=O)C1=CC=CC=C1 | C16H12N2OS
reactant | rhodanine-3-acetic acid | 1.7 g | S1C(=S)N(C(=O)C1)CC(=O)O | C5H5NO3S2
reactant | ammonium chloride | 1.3 g | [Cl-].[NH4+]
reactant | ammonia | N | H3N
solvent | ethanol | 60 ml | C(C)O | C2H6O
product | 5-(2-Diphenylaminothiazol-4-ylmethylene)rhodanine-3-acetic acid | C1(=CC=CC=C1)N(C=1SC=C(N1)C=C1C(N(C(S1)=S)CC(=O)O)=O)C1=CC=CC=C1 | C21H15N3O3S3
